US05134134
10.3 g (35.9 mmol) of diethyl 2-formylamino-3-hydroxy-4-methylene-heptane-1,7-dicarboxylate are dissolved in 100 ml of dichloromethane and 3.34 ml (43.1 mmol) of thionyl bromide are added dropwise to the solution at room temperature. After 1 hour, 10 ml of water are added and the batch is thoroughly stirred. The organic phase is separated, washed in succession with water, saturated potassium hydrogencarbonate solution and again with water, dried over magnesium sulfate and concentrated by evaporation, giving diethyl 2-formylamino-4-bromomethyl-hept-3-ene-1,7-dicarboxylate as a brownish oil.

reactant | diethyl 2-formylamino-3-hydroxy-4-methylene-heptane-1,7-dicarboxylate | 35.9 mmol, 10.3 g | C(=O)NC(CC(=O)OCC)C(C(CCCC(=O)OCC)=C)O | C15H25NO6
reactant | thionyl bromide | 43.1 mmol, 3.34 ml | S(=O)(Br)Br | Br2OS
reactant | water | 10 ml | O | H2O
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | diethyl 2-formylamino-4-bromomethyl-hept-3-ene-1,7-dicarboxylate | C(=O)NC(CC(=O)OCC)C=C(CCCC(=O)OCC)CBr | C15H24BrNO5
